* Generated by electronics_design from a KiCad schematic
.include "lvc1g14.ibs"
XU2 0 in2 74LVC1G14_GM
C1 N001 0 10p
R2 N001 in2 1
XU1 0 out1 74LVC1G14_GM ton=1e-8 toff=1e-8 td=1e-9 n=3
R1 out1 N001 1
.tran 1
.backanno
.end
